US09210932B2
Step A: Preparation of 2-amino-3-phenylpyridine
A microwave vial was charged with 2-amino-3-bromopyridine (0.5 g, 2.9 mmol), phenylboronic acid (0.52 g, 4.3 mmol), sodium bicarbonate (0.31 g, 2.9 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.1 g, 0.14 mmol), dioxane (5 mL) and water (1 mL). The vial was capped, and the reaction mixture was heated at 150° C. for 10 min. The reaction mixture was then cooled, quenched with water (10 mL), and extracted twice with ethyl acetate. The combined organic phases were dried (MgSO4) and concentrated to leave a black oil. The crude product was purified by chromatography on silica gel using 10-40% ethyl acetate/hexanes as eluant to provide the title compound as a white solid (0.35 g).

reactant | 2-amino-3-bromopyridine | 2.9 mmol, 0.5 g | NC1=NC=CC=C1Br | C5H5BrN2
reactant | phenylboronic acid | 4.3 mmol, 0.52 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium bicarbonate | 2.9 mmol, 0.31 g | C([O-])(O)=O.[Na+]
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.14 mmol, 0.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1 mL | O | H2O
product | 2-amino-3-phenylpyridine | 0.35 g | NC1=NC=CC=C1C1=CC=CC=C1 | C11H10N2
